US05523437
(S)-3,7-Dimethyl-1,6-octadiene (85% ee) (61 mg, 0.44 mmol) was dissolved in a mixture of water (20 ml) and tert.-butanol (10 ml). To the solution cooled with ice, potassium permanganate, (185 mg, 1.17 mmol), sodium metaperiodate (1.46 g, 6.86 mmol) and potassium carbonate (366 mg, 2.64 mmol) were added. To the reaction mixture, a 3N aqueous solution of sodium hydroxide was added to adjust pH to 8, followed by stirring at room temperature for 2 hours. While cooling with ice, conc. hydrochloric acid was added to the reaction mixture to adjust pH to 1. Then, sodium nitrite was added till the color of solution was changed from reddish brown to yellow, and the reaction mixture was extracted with diethyl ether. The organic layer was extracted with a 3N aqueous solution of sodium hydroxide twice, and thereafter, the aqueous layer was washed with diethyl ether once. To the aqueous layer, conc. hydrochloric acid was added to adjust pH to 1, and then the aqueous layer was extracted with diethyl ether three times. After drying the organic layer over anhydrous magnesium sulfate, the solvent was evaporated off under reduced pressure to obtain (S)-2-methylpentane dicarboxylic acid as a pale yellow oil (38 mg). Yield, 58%. Optical purity, 85% ee. Rotatory power: :[α]D20 =+17.4 (C=1.63, CHCl3). 1H-NMR (CDCl3): δ(ppm)=1.23 (d, J=7.0 Hz, 3H), 1.8-2.1 (m, 2H), 2.4-2.7 (m, 3H), 9.0-10.5 (br, 2H).

reactant | (S)-3,7-Dimethyl-1,6-octadiene | 0.44 mmol, 61 mg | C[C@H](C=C)CCC=C(C)C | C10H18
reactant | potassium permanganate | 1.17 mmol, 185 mg | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | sodium metaperiodate | 6.86 mmol, 1.46 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | potassium carbonate | 2.64 mmol, 366 mg | C([O-])([O-])=O.[K+].[K+]
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | sodium nitrite | N(=O)[O-].[Na+]
solvent | water | 20 ml | O | H2O
solvent | tert.-butanol | 10 ml | C(C)(C)(C)O | C4H10O
product | (S)-2-methylpentane dicarboxylic acid | 38 mg | C[C@H](C(C(=O)O)C(=O)O)CCC | C8H14O4
